US07135492B2
Oxalyl chloride (7.62 g; 0.06 mol) was added dropwise to the stirring solution of N-(2,6-dimethylphenyl)-N′-ethylthiourea (10.4 g; 0.05 mol) in methylene chloride (200 mL). The mixture was heated at reflux for 1 hour then evaporated to dryness. Ethanol (100 mL) was added and the mixture was heated at reflux for 1 hour then evaporated to dryness. The residue was dissolved in ethyl acetate (300 mL) and washed with 2N hydrochloric acid (500 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was crystallized from ether/hexane to give 6.0 g of 1-(2,6-Dimethylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione, m.p. 103–105° C. Mass spectrum; FAB (M+H)+ m/z 263. 1H-NMR (DMSO-d6; 300 MHz): δ 7.31–7.27 (m, 1H), 7.18 (d, 2H), 3.94 (q, 2H), 2.08 (s, 6H), and 1.25 ppm (t, 3H).

reactant | Oxalyl chloride | 0.06 mol, 7.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2,6-dimethylphenyl)-N′-ethylthiourea | 0.05 mol, 10.4 g | CC1=C(C(=CC=C1)C)NC(=S)NCC | C11H16N2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,6-Dimethylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione | 6.0 g | CC1=C(C(=CC=C1)C)N1C(N(C(C1=O)=O)CC)=S | C13H14N2O2S
